US08440651B2
4-(1-((2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)azetidin-3-yl)piperazin-2-one 127
4-(1-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)azetidin-3-yl)piperazin-2-one (87 mg) was reacted with 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole via General Procedure A to produce 46.1 mg of 127 following reverse phase HPLC purification. MS (Q1) 517.3 (M)+

reactant | 4-(1-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)azetidin-3-yl)piperazin-2-one | 87 mg | ClC=1N=C(C2=C(N1)C=CC(=N2)CN2CC(C2)N2CC(NCC2)=O)N2CCOCC2 | C19H24ClN7O2
reactant | 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C(=CC=C12)F)B1OC(C(O1)(C)C)(C)C | C20H31BFNO2Si
product | 4-(1-((2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)azetidin-3-yl)piperazin-2-one | FC=1C(=C2C=CNC2=CC1)C=1N=C(C2=C(N1)C=CC(=N2)CN2CC(C2)N2CC(NCC2)=O)N2CCOCC2 | C27H29FN8O2
